US07947676B2
N-{3-chloro-4-[(6-methylpyridin-3-yl)oxy]phenyl}-3-(2-pyrrolidin-1-ylethoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-amine
The procedure described in Example 23 was repeated using 3-(2-chloroethoxy)-N-{3-chloro-4-[(6-methylpyridin-3-yl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine and pyrrolidine to give the title compound in 17% yield; NMR Spectrum: 1.66-1.68 (m, 4H), 2.45 (s, 3H), 2.51-2.56 (m, 4H), 2.90 (t, 2H), 4.44 (t, 2H), 7.20 (d, 1H), 7.27 (br s, 2H), 7.71 (d, 1H), 8.11 (s, 1H), 8.20 (s, 1H), 8.36 (s, 1H), 8.68 (br s, 1H; Mass Spectrum: 466 (MH+).

reactant | 3-(2-chloroethoxy)-N-{3-chloro-4-[(6-methylpyridin-3-yl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OC=2C=NC(=CC2)C)Cl | C19H16Cl2N6O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | N-{3-chloro-4-[(6-methylpyridin-3-yl)oxy]phenyl}-3-(2-pyrrolidin-1-ylethoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 17% yield | ClC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC1=C2C(=NC=N1)NN=C2OCCN2CCCC2 | C23H24ClN7O2
